US08492372B2
2-(HYDROXYMETHYL)-5-(METHYLSULFONYL)PHENOL
2-hydroxy-4-(methylsulfonyl)benzoic acid (3.59 g, 16.6 mmol) was dissolved in dry THF (100 ml) under a blanket of nitrogen. The solution was cooled down to 0° C. and 1.0 M borane tetrahydrofuran complex (61.4 ml, 61.4 mmol) was slowly added. After completed addition the reaction mixture was brought to ambient temperature and stirred for 17 h. Then it was cooled once more to 0° C. and carefully quenched with water, acidified with aqueous HCl (5%) and finally extracted several times with EtOAc. The combined organic phases were dried (Na2SO4), filtered and evaporated to dryness. Since 50% of the starting material remained the reaction was done once more with THF (250 ml) and 1.0 M borane tetrahydrofurane (50 ml, 50 mmol). Same workup as before but prior to extraction the pH was adjusted to 7. The organic phase was dried (Na2SO4), filtered and evaporated under reduced pressure to give a white powder (3.3 g). 1H-NMR (400 MHz, MeOH): δ 7.6 (1H, d, J 8 Hz), δ 7.39 (1H, d, J 8 Hz), δ 7.28 (1H, s), δ 4.69 (2H, s), δ 3.06 (3H, s).

reactant | 2-hydroxy-4-(methylsulfonyl)benzoic acid | 16.6 mmol, 3.59 g | OC1=C(C(=O)O)C=CC(=C1)S(=O)(=O)C | C8H8O5S
reactant | borane tetrahydrofurane | 50 mmol, 1.0 M, 50 ml | O1CCCC1.B
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | 2-(HYDROXYMETHYL)-5-(METHYLSULFONYL)PHENOL | 3.3 g | OCC1=C(C=C(C=C1)S(=O)(=O)C)O | C8H10O4S
